US06458337B1
A) L-Tryptophan Methyl Ester Hydrochloride
A 1.2 M solution of HCl in MeOH (440 mL; 0.528 mol) was added to a suspension of L-tryptophan (commercial product) (30.6 g; 150 mmol) in MeOH (70 mL). The resulting clear solution was stirred for 5 days at 20° C. The solution was concentrated (35° C.; 1.3 kPa) to yield a solid which was dissolved in MeOH (10 mL). Et2O (300 mL) was added to the solution and the mixture was vigorously stirred for 1 h. The mixture was filtered and the solid was washed with Et2O (70 mL). The combined solutions were concentrated (35° C.; 1.3 kPa) to a volume of 100 mL and filtered. The solid materials were combined and dried (40° C.; P205; 1.3 kPa) to give as a white solid the desired product (38.5 g; 149.5 mmol). Quantitative yield.

reactant | HCl | Cl | ClH
reactant | L-tryptophan | 150 mmol, 30.6 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | Et2O | 300 mL | CCOCC | C4H10O
solvent | MeOH | 70 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 0.528 mol, 440 mL | CO | CH4O
product | L-Tryptophan Methyl Ester Hydrochloride | 149.5 mmol, 38.5 g, Quantitative yield | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | InChI=1S/C12H14N2O2.ClH/c1-16-12(15)10(13)6-8-7-14-11-5-3-2-4-9(8)11;/h2-5,7,10,14H,6,13H2,1H3;1H/t10-;/m0./s1
